US07579469B2
To a suspension of 1.87 g of Mg turnings in 30 mL of dry diethyl ether under argon in a water bath was added 1.62 mL of dibromoethane slowly by syringe while maintaining the temperature below 27° C. A solution of 4 g of 2-(2-chloro-1,1-dimethylethyl)-1-methoxy4-methylbenzene and additional dibromoethane (1.62 mL) in 20 mL of diethyl ether was added by addition funnel at a rate that kept the internal temp below 25° C. The reaction became green and a fine precipitate formed. After 1 hour, the reaction was cooled to −78° C., solids formed on the bottom, stirring stopped, and a solution of 3.98 mL of trifluoroacetic anhydride in 4 mL diethyl ether was added by addition funnel while swirling the reaction by hand. The reaction was warmed to room temperature and stirring resumed above 40° C. The reaction was monitored by TLC indicating a new slightly more polar product and starting material. The reaction was poured onto cold 1N aqueous HCl and extracted with diethyl ether. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was purified on silica gel column eluting with ethyl acetate-hexanes (0%-5%) to afford 1.7 g of 1,1,1-trifluoro-4-(2-methoxy-5-methylphenyl)-4-methylpentan-2-one as a clear oil.

reactant | dibromoethane | 1.62 mL | BrC(C)Br | C2H4Br2
reactant | 2-(2-chloro-1,1-dimethylethyl)-1-methoxy4-methylbenzene | 4 g | ClCC(C)(C)C1=C(C=CC(=C1)C)OC | C12H17ClO
reactant | dibromoethane | 1.62 mL | BrC(C)Br | C2H4Br2
reactant | trifluoroacetic anhydride | 3.98 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | HCl | 1N | Cl | ClH
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 1,1,1-trifluoro-4-(2-methoxy-5-methylphenyl)-4-methylpentan-2-one | 1.7 g | FC(C(CC(C)(C)C1=C(C=CC(=C1)C)OC)=O)(F)F | C14H17F3O2
